US07592373B2
3.25.d. [5-(4-chlorophenyl)pyridin-2-yl]propynoic acid
1.6 mL (2.46 mmol) of butyllithium solution (1.6M in hexane) are added dropwise at −10° C. to a solution of 0.5 g (2.34 mmol) of 5-(4-chlorophenyl)-2-ethynylpyridine in 30 mL of absolute THF and the mixture is stirred for five minutes at −8° C. stirred. The reaction mixture is combined with dry ice batchwise at −70° C., stirred for 1 hour at ambient temperature, and evaporated down. The residue is suspended in 5 mL of water and combined with 1.6 mL of 1N hydrochloric acid, whereupon a precipitate is formed. Then ethyl acetate is added and the suspension is filtered. The solid is dried in the vacuum drying chamber at 70° C. Yield: 0.25 g (41.5% of theory); melting point: 210° C.; C14H8ClNO2 (M=257.67); calc.: molecular ion peak (M+H)+: 258/260; found: molecular ion peak (M+H)+: 258/260.

reactant | butyllithium | 2.46 mmol, 1.6M, 1.6 mL | C(CCC)[Li]
reactant | 5-(4-chlorophenyl)-2-ethynylpyridine | 2.34 mmol, 0.5 g | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
reactant | dry ice | C(=O)=O | CO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [5-(4-chlorophenyl)pyridin-2-yl]propynoic acid | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC(=O)O | C14H8ClNO2
